US06194461B1
4) 2-fluoro-4-methoxybenzaldehyde
Triethylamine (0.92 ml, 6.60 mmol) was added to a solution of 2-fluoro-4-methoxybenzylalcohol (346.9 mg, 2.22 mmol) in DMSO (8 ml). Pyridine sulfur trioxide (1.0501 g, 6.60 mmol) was added portionwise to the mixture checking raise of the temperature. The mixture was stirred for 0.5 hours. The mixture was added to 5% KHSO4 aqueous solution, extracted three times with ethyl acetate and dried over MgSO4. The mixture was concentrated and purified by silica gel chromatography (hexane/ether=5/1) to give the title compound (301 mg; 88%).

reactant | Triethylamine | 6.60 mmol, 0.92 ml | C(C)N(CC)CC | C6H15N
reactant | 2-fluoro-4-methoxybenzylalcohol | 2.22 mmol, 346.9 mg | FC1=C(CO)C=CC(=C1)OC | C8H9FO2
reactant | Pyridine sulfur trioxide | 6.60 mmol, 1.0501 g | S(=O)(=O)=O.N1=CC=CC=C1
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | DMSO | 8 ml | CS(=O)C | C2H6OS
product | 2-fluoro-4-methoxybenzaldehyde | 301 mg, 88% | FC1=C(C=O)C=CC(=C1)OC | C8H7FO2
